US05618814
2-[4-(N,N-Dimethylamino)-piperidino]-8-[N-benzyl-N-(3-benzoylaminopropyl)-amino]-4-morpholino-pyrimido[5,4-d]-pyrimidine
0.75 g of 2-[4-(N,N-dimethylamino)-piperidino]-8-[N-benzyl-N-(3-aminopropyl)-amino]-4-morpholino-pyrimido[5,4-d]pyrimidine are dissolved in 8 ml of methylene chloride and mixed with 0.24 g of benzoyl chloride and 0.3 g of triethylamine in 2 ml of methylene chloride. The reaction mixture is stirred for 12 hours at ambient temperature and then extracted three times with water. The organic phase is dried over sodium sulphate and concentrated by rotary evaporation. The residue is chromatographed over a silica gel column using methylene chloride/methanol=7:3. Yield: 0.7 g (77% of theory) Oil C34H43N9O2 (609.78)

reactant | 2-[4-(N,N-dimethylamino)-piperidino]-8-[N-benzyl-N-(3-aminopropyl)-amino]-4-morpholino-pyrimido[5,4-d]pyrimidine | 0.75 g | CN(C)C1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)N(CCCN)CC2=CC=CC=C2)N2CCOCC2 | C27H39N9O
reactant | benzoyl chloride | 0.24 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(N,N-Dimethylamino)-piperidino]-8-[N-benzyl-N-(3-benzoylaminopropyl)-amino]-4-morpholino-pyrimido[5,4-d]-pyrimidine | CN(C)C1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)N(CCCNC(C2=CC=CC=C2)=O)CC2=CC=CC=C2)N2CCOCC2 | C34H43N9O2
